### PR TITLE
[Merged by Bors] - feat: define `IsPositive` and Löwner order for `LinearMap`

### PR DESCRIPTION
**Pull request by IvanRenison**
Moves:
- ContinuousLinearMap.IsPositive.inner_nonneg_left -> ContinuousLinearMap.IsPositive.re_inner_nonneg_left
- ContinuousLinearMap.IsPositive.inner_nonneg_right -> ContinuousLinearMap.IsPositive.re_inner_nonneg_right

---

Discussion in zulip: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Positive-semidefinite.20linear.20operator

I don't now if what I'm doing is the best way to do this.
Probably it is possible to have `StarOrderedRing (H →ₗ[𝕜] H)`, but it is not so easy, so I think maybe is better to add it in a different pull request

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -33,20 +35,108 @@ of requiring self adjointness in the definition.
...
 local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
 
+namespace LinearMap
+
+variable [FiniteDimensional 𝕜 E] [FiniteDimensional 𝕜 F]
+
+/-- A linear map `T` of a Hilbert space is **positive** if it is self adjoint and
+  `∀ x, 0 ≤ re ⟪T x, x⟫`. -/
+def IsPositive (T : E →ₗ[𝕜] E) : Prop :=
+  IsSelfAdjoint T ∧ ∀ x, 0 ≤ re ⟪T x, x⟫
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:55]: I think you should prove (under the `ComplexOrder` scope), that this is equivalent to `IsSelfAdjoint T ∧ ∀ x, 0 ≤ ⟪T x, x⟫`.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 2]
```diff
@@ -33,20 +35,108 @@ of requiring self adjointness in the definition.
...
+
+theorem IsPositive.isSelfAdjoint {T : E →ₗ[𝕜] E} (hT : IsPositive T) : IsSelfAdjoint T :=
+  hT.1
+
+theorem IsPositive.inner_nonneg_left {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪T x, x⟫ :=
+  hT.2 x
+
+theorem IsPositive.inner_nonneg_right {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪x, T x⟫ := by rw [inner_re_symm]; exact hT.inner_nonneg_left x
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:65]: These should be called `re_inner_nonneg...` and you should save these names for the `0 ≤ ⟪...⟫` versions.

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean [hunk 3]
```diff
@@ -281,6 +281,15 @@ variable [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
...
 local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
 
+/-- Extract a real bilinear form from an linear map `T`,
+by taking the pairing `fun x ↦ re ⟪T x, x⟫`. -/
+def LinearMap.reApplyInnerSelf (T : E →ₗ[𝕜] E) (x : E) : ℝ :=
+  re ⟪T x, x⟫
+
+theorem LinearMap.reApplyInnerSelf_apply (T : E →ₗ[𝕜] E) (x : E) :
+    T.reApplyInnerSelf x = re ⟪T x, x⟫ :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/LinearMap.lean:291]: My other comments should obviate the need for this I suspect.

**Review by j-loreaux — COMMENTED** [review]
Can you also clean up the `ContinuousLinearMap` versions in the manner I suggest below for your `LinearMap` versions?

File: Mathlib/Analysis/InnerProductSpace/LinearMap.lean (hunk 3 above)
Comment (IvanRenison) [reply Mathlib/Analysis/InnerProductSpace/LinearMap.lean:291]: I added this because there is a similar definition for `ContinuousLinearMap`, should I remove them any way?

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 4]
```diff
@@ -33,20 +35,128 @@ of requiring self adjointness in the definition.
...
+
+theorem IsPositive.re_inner_nonneg_left {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪T x, x⟫ :=
+  hT.2 x
+
+theorem IsPositive.re_inner_nonneg_right {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪x, T x⟫ := by rw [inner_re_symm]; exact hT.re_inner_nonneg_left x
+
+open ComplexOrder in
+theorem IsPositive_iff_IsSelfAdjoint_and_inner_nonneg_left (T : E →ₗ[𝕜] E) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:71]:
```suggestion
theorem isPositive_iff_isSelfAdjoint_and_inner_nonneg_left (T : E →ₗ[𝕜] E) :
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 5]
```diff
@@ -55,12 +165,20 @@ def IsPositive (T : E →L[𝕜] E) : Prop :=
...
 
-theorem IsPositive.inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T) (x : E) :
+theorem IsPositive.re_inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T) (x : E) :
     0 ≤ re ⟪T x, x⟫ :=
   hT.2 x
 
+theorem IsPositive.re_inner_nonneg_right {T : E →L[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪x, T x⟫ := by rw [inner_re_symm]; exact hT.re_inner_nonneg_left x
+
+@[deprecated re_inner_nonneg_left (since := "2025-05-28")]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:175]: Instead of adding deprecations, add the same lemma `isPositive_iff_isSelfAdjoint_and_inner_nonneg_left` and the others you added above. Then in the PR description, mark these as "MOVES" (details for doing this are located in the information when you edit the PR description)

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 6]
```diff
@@ -33,20 +35,128 @@ of requiring self adjointness in the definition.
...
+theorem IsPositive.re_inner_nonneg_left {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪T x, x⟫ :=
+  hT.2 x
+
+theorem IsPositive.re_inner_nonneg_right {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ re ⟪x, T x⟫ := by rw [inner_re_symm]; exact hT.re_inner_nonneg_left x
+
+open ComplexOrder in
+theorem isPositive_iff_isSelfAdjoint_and_inner_nonneg_left (T : E →ₗ[𝕜] E) :
+    IsPositive T ↔ IsSelfAdjoint T ∧ ∀ x, 0 ≤ ⟪T x, x⟫ := by
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:72]:
```suggestion
open ComplexOrder in
theorem isPositive_iff (T : E →ₗ[𝕜] E) :
    IsPositive T ↔ IsSelfAdjoint T ∧ ∀ x, 0 ≤ ⟪T x, x⟫ := by
```
How about just calling it like this? This is what we'll want to use 99% of the time I suspect. (And the same for the continuous linear map version below.)

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 7]
```diff
@@ -55,12 +165,35 @@ def IsPositive (T : E →L[𝕜] E) : Prop :=
...
+  unfold reApplyInnerSelf
+  simp
+
+open ComplexOrder in
+theorem IsPositive.inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ ⟪T x, x⟫ :=
+  ((isPositive_iff_isSelfAdjoint_and_inner_nonneg_left T).mp hT).right x
+
+open ComplexOrder in
 theorem IsPositive.inner_nonneg_right {T : E →L[𝕜] E} (hT : IsPositive T) (x : E) :
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:195]: Can you make this match the "left" version above? i.e. define it in terms of the complex order.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 8]
```diff
@@ -33,20 +35,128 @@ of requiring self adjointness in the definition.
...
+theorem isPositive_iff_isSelfAdjoint_and_inner_nonneg_left (T : E →ₗ[𝕜] E) :
+    IsPositive T ↔ IsSelfAdjoint T ∧ ∀ x, 0 ≤ ⟪T x, x⟫ := by
+  unfold IsPositive
+  rw [and_congr_right_iff]
+  intro hT
+  apply forall_congr'
+  intro x
+  rw [nonneg_iff (z := ⟪T x, x⟫), ← conj_eq_iff_im, inner_conj_symm,
+    (isSymmetric_iff_isSelfAdjoint T).mpr hT]
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:80]: The additional lemmas I mentioned allow for this proof:
```suggestion
  simp_rw [IsPositive, and_congr_right_iff, ← RCLike.ofReal_nonneg (K := 𝕜)]
  intro hT
  simp [isSymmetric_iff_isSelfAdjoint _ |>.mpr hT]
```

**Review by j-loreaux — COMMENTED** [review]
I think we're missing these lemmas. Please double-check, and then add them:
```lean
variable {𝕜 E : Type*} [RCLike 𝕜] [SeminormedAddCommGroup E] [InnerProductSpace 𝕜 E]
    {T : E →ₗ[𝕜] E}

@[simp]
theorem IsSymmetric.im_inner_apply_self (hT : T.IsSymmetric) (x : E) :
    im ⟪T x, x⟫_𝕜 = 0 :=
  conj_eq_iff_im.mp <| hT.conj_inner_sym x x

@[simp]
theorem IsSymmetric.im_inner_self_apply (hT : T.IsSymmetric) (x : E) :
    im ⟪x, T x⟫_𝕜 = 0 := by
  simp [← hT x x, hT]

@[simp]
theorem IsSymmetric.coe_re_inner_apply_self (hT : T.IsSymmetric) (x : E) :
    re ⟪T x, x⟫_𝕜 = ⟪T x, x⟫_𝕜 :=
  conj_eq_iff_re.mp <| hT.conj_inner_sym x x

@[simp]
theorem IsSymmetric.coe_re_inner_self_apply (hT : T.IsSymmetric) (x : E) :
    re ⟪x, T x⟫_𝕜 = ⟪x, T x⟫_𝕜 := by
  simp [← hT x x, hT]
```
This will unlock a bit of what I have to say below.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 9]
```diff
@@ -167,3 +188,139 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+theorem IsPositive.inner_nonneg_left {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) : 0 ≤ ⟪T x, x⟫ :=
+  ((isPositive_iff T).mp hT).right x
+
+open ComplexOrder in
+theorem IsPositive.inner_nonneg_right {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) :
+    0 ≤ ⟪x, T x⟫ := by
+  rw [← hT.isSymmetric]
+  exact hT.inner_nonneg_left x
+
+theorem isPositive_zero : IsPositive (0 : E →ₗ[𝕜] E) := ⟨.zero _, by simp⟩
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:294]:
```suggestion
@[simp]
theorem isPositive_zero : IsPositive (0 : E →ₗ[𝕜] E) := ⟨.zero _, by simp⟩
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 10]
```diff
@@ -167,3 +188,139 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+
+theorem isPositive_one : IsPositive (1 : E →ₗ[𝕜] E) :=
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
@[simp]
theorem isPositive_one : IsPositive (1 : E →ₗ[𝕜] E) :=
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 11]
```diff
@@ -167,3 +188,139 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+  ⟨.one _, fun _ => inner_self_nonneg⟩
+
+theorem IsPositive.add {T S : E →ₗ[𝕜] E} (hT : T.IsPositive) (hS : S.IsPositive) :
+    (T + S).IsPositive := by
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:313]:
```suggestion
@[aesop safe apply]
theorem IsPositive.add {T S : E →ₗ[𝕜] E} (hT : T.IsPositive) (hS : S.IsPositive) :
    (T + S).IsPositive := by
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 12]
```diff
@@ -167,3 +188,139 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+  refine ⟨hT.isSelfAdjoint.add hS.isSelfAdjoint, fun x => ?_⟩
+  rw [add_apply, inner_add_left, map_add]
+  exact add_nonneg (hT.re_inner_nonneg_left x) (hS.re_inner_nonneg_left x)
+
+theorem IsPositive.conj_adjoint {T : E →ₗ[𝕜] E} (hT : T.IsPositive) (S : E →ₗ[𝕜] F) :
+    (S ∘ₗ T ∘ₗ S.adjoint).IsPositive := by
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:320]:
```suggestion
@[aesop safe apply]
theorem IsPositive.conj_adjoint {T : E →ₗ[𝕜] E} (hT : T.IsPositive) (S : E →ₗ[𝕜] F) :
    (S ∘ₗ T ∘ₗ S.adjoint).IsPositive := by
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 13]
```diff
@@ -167,3 +188,139 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+  refine And.intro ?_ ?_
+  · rw [isSelfAdjoint_iff', adjoint_comp, adjoint_comp, adjoint_adjoint, ← star_eq_adjoint, hT.1]
+    rfl
+  · intro x
+    rw [comp_apply, ← adjoint_inner_right]
+    exact hT.re_inner_nonneg_left _
+
+theorem IsPositive.adjoint_conj {T : E →ₗ[𝕜] E} (hT : T.IsPositive) (S : F →ₗ[𝕜] E) :
+    (S.adjoint ∘ₗ T ∘ₗ S).IsPositive := by
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:330]:
```suggestion
@[aesop safe apply]
theorem IsPositive.adjoint_conj {T : E →ₗ[𝕜] E} (hT : T.IsPositive) (S : F →ₗ[𝕜] E) :
    (S.adjoint ∘ₗ T ∘ₗ S).IsPositive := by
```

**Review by dupuisf — COMMENTED** [review]
Also, can you add the following two lemmas after `isPositive_one`?
```lean
@[simp]
theorem isPositive_natCast {n : ℕ} : IsPositive (n : E →ₗ[𝕜] E) := by
  refine ⟨IsSelfAdjoint.natCast n, ?_⟩
  intro x
  have : n • x = (n : 𝕜) • x := by norm_cast
  simp only [Module.End.natCast_apply, this, inner_smul_left, map_natCast, mul_re, natCast_re,
    natCast_im, inner_self_im, mul_zero, sub_zero, ge_iff_le]
  exact mul_nonneg (Nat.cast_nonneg' n) inner_self_nonneg

@[simp]
theorem isPositive_ofNat {n : ℕ} [n.AtLeastTwo] : IsPositive (ofNat(n) : E →ₗ[𝕜] E) :=
  isPositive_natCast
```

**Comment by dupuisf** [comment]
Great; thanks for bearing with us!

bors r+
